US08252798B2
Heat a solution of 8-(2-bromophenyl)-6-chloro-2-methyl-9-(tetrahydro-2H-pyran-4-yl)-9H-purine (0.0023 mol, 1.0 g), 1-methyl piperazine (0.0025 mol, 0.25 g, 1.1 equiv.) and triethylamine (0.0025 mol, 0.25 g, 1.1 equiv.) in ethanol (10.0 mL) at 90° C. for 16 h. Concentrate the reaction mixture under reduce pressure. Dissolve the residue in dry dichloromethane and wash with saturated sodium bicarbonate solution, water, and brine. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate to give the residue. Purify the residue by silica gel chromatography eluting with dichloromethane:methanol 97:3 to give 8-(2-Bromo-phenyl)-2-methyl-6-(4-methyl-piperazin-1-yl)-9-(tetrahydro-pyran-4-yl)-9H-purine (0.71 g). Used as such for the next step.

reactant | 8-(2-bromophenyl)-6-chloro-2-methyl-9-(tetrahydro-2H-pyran-4-yl)-9H-purine | 0.0023 mol, 1.0 g | BrC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)Cl)C)C1CCOCC1 | C17H16BrClN4O
reactant | 1-methyl piperazine | 0.0025 mol, 0.25 g, 1.1 equiv. | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 0.0025 mol, 0.25 g, 1.1 equiv. | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10.0 mL | C(C)O | C2H6O
product | 8-(2-Bromo-phenyl)-2-methyl-6-(4-methyl-piperazin-1-yl)-9-(tetrahydro-pyran-4-yl)-9H-purine | 0.71 g | BrC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)C)C)C1CCOCC1 | C22H27BrN6O
